US03966775
A mixture of 5.0 parts of 5-nitro-1,4,4a,9a-tetrahydroanthraquinone with 80 parts of toluene and 1.0 part of n-butylamine was stirred at 70°C for 2 hours. The mixture was then distilled under a reduced pressure of 100 mm Hg to remove toluene, washed with 50 parts of methanol and dried under reduced pressure to obtain 4.4 parts of 1-hydroxylaminoanthraquinone.

reactant | 5-nitro-1,4,4a,9a-tetrahydroanthraquinone | [N+](=O)([O-])C1=C2C(C3CC=CCC3C(C2=CC=C1)=O)=O | C14H11NO4
reactant | n-butylamine | C(CCC)N | C4H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-hydroxylaminoanthraquinone | ONC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO3
